US04411899
2-Allyloxy-5-(N,N-dimethylcarbamoyl)thiazole
To a stirred suspension of 0.5 g (10 mmol) of sodium hydride in 5 ml of dry N,N-di-methylformamide under N2, there can be added 0.6 g (10 mmol) of sieve-dried allyl alcohol. After hydrogen evolution ceases, the stirred solution can be treated with 2-bromo-5-(N,N-dimethylcarbamoyl)thiazole (2.35 g, 10.0 mmole). The mixture can then be stirred at 40° under N2 for 18 hours, diluted with four volumes of water and extracted with ether. The ether extracts can be washed with water, dried (Na2SO4), filtered and concentrated in vacuo to give an oil which can then be distilled to give pure title compound.

reactant | sodium hydride | 10 mmol, 0.5 g | [H-].[Na+]
reactant | allyl alcohol | 10 mmol, 0.6 g | C(C=C)O | C3H6O
reactant | hydrogen | [H][H] | H2
reactant | 2-bromo-5-(N,N-dimethylcarbamoyl)thiazole | 10.0 mmole, 2.35 g | BrC=1SC(=CN1)C(N(C)C)=O | C6H7BrN2OS
solvent | N,N-di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Allyloxy-5-(N,N-dimethylcarbamoyl)thiazole | C(C=C)OC=1SC(=CN1)C(N(C)C)=O | C9H12N2O2S
